US06576627B1
4-Nitrobenzaldehyde (1 g) was dissolved in methylene chloride (20 ml), and the reaction system was cooled to 0° C. The solution was added with carboethoxy-methylenetriphenylphospholan (2.56 g) and stirred at 0° C. for 1 hour. The reaction system was concentrated under reduced pressure without any treatment, and the residue was purified by silica gel column chromatography (50 g, hexane:ethyl acetate=4:1) to obtain ethyl 3-(4-nitrophenyl)acrylate (1.27 g, 86%).

reactant | 4-Nitrobenzaldehyde | 1 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | carboethoxy-methylenetriphenylphospholan | 2.56 g | C(=O)(OCC)C1C(C(P(C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C | C26H25O2P
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-(4-nitrophenyl)acrylate | 1.27 g, 86% | [N+](=O)([O-])C1=CC=C(C=C1)C=CC(=O)OCC | C11H11NO4
